US07087601B2
A mixture of 5′-(1,3-benzoxazol-2-yl)-2′-methyl-1,1′-biphenyl-3-carbonitrile (229 mg, 0.74 mmol), n-bromosuccinimide (145 mg, 0.81 mmol), and benzoyl peroxide (9 mg, 0.037 mmol) in carbon tetrachloride (15 mL) was refluxed for 5 h. The solvent was evaporated to dryness and the crude was purified by flash chromatography on silica gel eluting with a gradient of EtOAc:hexanes (0 to 30 min: 0 to 20% EtOAc, 30 to 40 min: 50% EtOAc) to afford 5′-(1,3-benzoxazol-2-yl)-2′-(bromomethyl)-1,1′-biphenyl-3-carbonitrile as a colorless solid.

reactant | 5′-(1,3-benzoxazol-2-yl)-2′-methyl-1,1′-biphenyl-3-carbonitrile | 0.74 mmol, 229 mg | O1C(=NC2=C1C=CC=C2)C=2C=CC(=C(C2)C2=CC(=CC=C2)C#N)C | C21H14N2O
reactant | n-bromosuccinimide | 0.81 mmol, 145 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 0.037 mmol, 9 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 15 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5′-(1,3-benzoxazol-2-yl)-2′-(bromomethyl)-1,1′-biphenyl-3-carbonitrile | O1C(=NC2=C1C=CC=C2)C=2C=CC(=C(C2)C2=CC(=CC=C2)C#N)CBr | C21H13BrN2O
